US06610723B2
[4-(3,4-Dichloro-phenyl)-pyridine 2-yl]-methanol
The title compound, MS: m/e=252.0 ([M-H]-) was obtained as a light brown oil (94% yield) by the reaction of 4-(3,4-dichloro-phenyl)-pyridine-2-carboxylic acid methyl ester with 1M lithium aluminum hydride/THF solution in THF at 20° C. for 1 h followed by chromatographic purification.

reactant | 4-(3,4-dichloro-phenyl)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CC(=C1)C1=CC(=C(C=C1)Cl)Cl | C13H9Cl2NO2
reactant | lithium aluminum hydride THF | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-].C1CCOC1
solvent | THF | C1CCOC1 | C4H8O
product | [4-(3,4-Dichloro-phenyl)-pyridine 2-yl]-methanol | ClC=1C=C(C=CC1Cl)C1=CC(=NC=C1)CO | C12H9Cl2NO
